US05234946
Production of (E)-N-(6,6-dimethyl-2-hepten-4-ynyl)-N-ethyl-3-[3-(1-pyrrolyl)benzyloxy)benzylamine (compound 123)
100 mg of (E)-N-(6,6-dimethyl-2-hepten-4-ynyl)-N-ethyl-3-hydroxybenzylamine was dissolved in 1 ml of anhydrous tetrahydrofuran, and 20 mg of 60% oily sodium hydride was added to the solution with ice cooling and stirring, and the mixture was stirred for 10 minutes. To the resulting solution was added 1 ml of a dimethylformamide solution of 100 mg of 3-(1-pyrrolyl)benzyl methanesulfonate, and the mixture was stirred overnight at room temperature. The solution was extracted by adding 20 ml of water and 30 ml of ethyl ether. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous sodium sulfate. The solvent was evaporated. The residue was purified by silica gel column chromatography [Wakogel C-200, 20 g, eluting solvent: hexane/ethyl acetate=10/1→5/1) to give 110 mg (yield 70%) of the captioned compound as a colorless oil.

reactant | (E)-N-(6,6-dimethyl-2-hepten-4-ynyl)-N-ethyl-3-hydroxybenzylamine | 100 mg | CC(C#C/C=C/CN(CC)CC1=CC(=CC=C1)O)(C)C | C18H25NO
reactant | sodium hydride | 20 mg | [H-].[Na+]
reactant | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
reactant | 3-(1-pyrrolyl)benzyl methanesulfonate | 100 mg | CS(=O)(=O)OCC1=CC(=CC=C1)N1C=CC=C1 | C12H13NO3S
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | (E)-N-(6,6-dimethyl-2-hepten-4-ynyl)-N-ethyl-3-[3-(1-pyrrolyl)benzyloxy)benzylamine | 110 mg, yield 70% | CC(C#C/C=C/CN(CC)CC1=CC(=CC=C1)OCC1=CC(=CC=C1)N1C=CC=C1)(C)C | C29H34N2O
